US06900335B2
In a flask made of glass equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser and having an inner volume of 500 ml were charged 26.5 g (0.10 mol) of crude crystal of 5-fluoro-3-methoxycarbonyloxindole synthesized according to Example 17 with a purity of 80% (analytical value by high performance liquid chromatography), 66.9 g of methanol and 52.0 ml (0.31 mol) of 6 mol/l hydrochloric acid, and the mixture was reacted at 70 to 80° C. for 2 hours. After completion of the reaction, the mixture was cooled to room temperature, 55.0 ml (0.44 mol) of 8 mol/l aqueous sodium hydroxide solution was added to the mixture, and the resulting mixture was stirred at 40° C. for 30 minutes. Then, 8.3 ml (0.10 mol) of 12 mol/l hydrochloric acid was added to the resulting mixture. After removing methanol under reduced pressure, the reaction mixture was cooled to 0 to 5° C., then a solid was precipitated so that it was collected by filtration. The resulting solid was recrystallized from isopropyl alcohol/water to obtain 12.6 g (isolation yield: 80%) of 5-fluorooxindole as white crystals with a purity of 99% (areal percentage by high performance liquid chromatography).

reactant | 5-fluoro-3-methoxycarbonyloxindole | FC=1C=C2C(C(NC2=CC1)=O)C(=O)OC | C10H8FNO3
reactant | hydrochloric acid | 0.31 mol, 6 mol/l, 52.0 ml | Cl | ClH
reactant | sodium hydroxide | 0.44 mol, 8 mol/l, 55.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.10 mol, 12 mol/l, 8.3 ml | Cl | ClH
solvent | methanol | 66.9 g | CO | CH4O
product | 5-fluorooxindole | 12.6 g, yield: 80% | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
